US07608639B2
3-{2-Methyl-4-[3-methyl-5-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with o-cresol as in Example 45 to afford 0.038 g (25%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) 71 m/Z exact mass calculated for C31H27O5F3 537.1888, found 537.1893.

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
product | 3-{2-Methyl-4-[3-methyl-5-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)OC1=C(C=CC=C1)C)C)CCC(=O)O | C31H27F3O5
